US04578393
1-(4-Chlorophenyl)-1,4-dihydroisoquinol-3-one (6.2 g, 24 mmol) was dissolved in dry methylene chloride (30 ml) and stirred under nitrogen. A solution of triethyloxonium tetrafluoroborate in methylene chloride (1M), (24 ml) was added in one portion at room temperature. After 3 h at room temperature, a solution of n-propylamine (2.0 g, 34 mmol) in ethanol (20 ml) was added and the mixture refluxed for 24 h. The solution was cooled, the solvent removed under reduced pressure and the residue partitioned between ethyl acetate (200 ml) and 10% sodium hydroxide (100 ml). The organic layer was separated, acidified with 5M sulphuric acid (2×50 ml) and washed with water (100 ml). The combined aqueous phases were basified (Care) with 10% sodium hydoxide and the oil so produced extracted with ethyl acetate (2×100 ml). The combined ethyl acetate layers were washed with brine (50 ml) and dried over sodium sulphate. The solution was filtered and reduced to 100 ml under reduced pressure. Ethereal hydrogen chloride was added and the solvent was removed under reduced pressure. Toluene (50 ml) was added to the foam so produced and evaporated off. The foam that remained was dried in the vacuum over (90° C., 1 mm) to give 1-(4-chlorophenyl)-3-n-propylamino-1,4-dihydroisoquinoline hydrochloride (3.1 g, 38%).

reactant | 1-(4-Chlorophenyl)-1,4-dihydroisoquinol-3-one | 24 mmol, 6.2 g | ClC1=CC=C(C=C1)C1NC(CC2=CC=CC=C12)=O | C15H12ClNO
reactant | triethyloxonium tetrafluoroborate | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | n-propylamine | 34 mmol, 2.0 g | C(CC)N | C3H9N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1M, 24 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(4-chlorophenyl)-3-n-propylamino-1,4-dihydroisoquinoline hydrochloride | 3.1 g, 38% | Cl.ClC1=CC=C(C=C1)C1N=C(CC2=CC=CC=C12)NCCC | InChI=1S/C18H19ClN2.ClH/c1-2-11-20-17-12-14-5-3-4-6-16(14)18(21-17)13-7-9-15(19)10-8-13;/h3-10,18H,2,11-12H2,1H3,(H,20,21);1H
